US05776964
tert-Butyl 2-[4-(2-butyl-5-formyl-imidazol-1-yl-methyl)phenyl]-2-cyclopentyl-acetate
A solution of 21.8 g (47.5 mmol) of tert-butyl 2-[4-(2-butyl-4-chloro-5-formyl-imidazol-1-yl-methyl)phenyl]-2-cyclopentyl-acetate in 200 ml of methanol is hydrogenated at a hydrogen pressure of about 2 bar for 1 h at 25° C. in the presence of 2.18 g of palladium on active carbon (5% strength) and 6.47 g (47.5 mmol) of sodium acetate trihydrate. The solution is then filtered off from the catalyst and concentrated, and the residue is chromatographed on silica gel 60 using ethyl acetate/petroleum ether (1:1).

reactant | tert-butyl 2-[4-(2-butyl-4-chloro-5-formyl-imidazol-1-yl-methyl)phenyl]-2-cyclopentyl-acetate | 47.5 mmol, 21.8 g | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C1CCCC1 | C26H35ClN2O3
reactant | hydrogen | [H][H] | H2
reactant | sodium acetate trihydrate | 47.5 mmol, 6.47 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium | 2.18 g | [Pd] | Pd
product | tert-Butyl 2-[4-(2-butyl-5-formyl-imidazol-1-yl-methyl)phenyl]-2-cyclopentyl-acetate | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C1CCCC1 | C26H36N2O3
